2203-06-11 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Plaquenil discontinued per O/P rheumatologist
   - Received 1500mL NS total with improvement in BP, CVP to 12. Net
   +1.4L. However PM lytes with worsening bicarb of unclear etiology.
   - Fentanyl gtt restarted for HTN/tachycardia
   - EEG without seizure activity; just slowing c/w encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2203-6-9**] 08:30 AM
   Ampicillin - [**2203-6-10**] 05:38 AM
   Vancomycin - [**2203-6-10**] 08:37 AM
   Ceftriaxone - [**2203-6-10**] 08:38 AM
   Gentamicin - [**2203-6-10**] 05:12 PM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Fentanyl - [**2203-6-11**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-6-11**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.6
C (99.7
   HR: 96 (78 - 103) bpm
   BP: 132/73(96) {104/55(75) - 148/81(108)} mmHg
   RR: 25 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 11 (8 - 15)mmHg
   Total In:
                                                                  4,204 mL
                                                                    271 mL
   PO:
   TF:
                                                                    674 mL
                                                                     69 mL
   IVF:
                                                                  3,310 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  2,845 mL
                                                                      0 mL
   Urine:
                                                                  1,545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,359 mL
                                                                    271 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 586 (582 - 648) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.38/29/137/15/-6
   Ve: 15.1 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General: Intubated, sedated
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, ronchi
   CV: RRR, mechanical S1, and S2 2/6 SEM throughout precordiumwith
   difficult to hear heart sounds over ventilator
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: 1+ faint pulses, dopplerable PT pulses, no clubbing, cyanosis or
   edema
   NEURO: L pupil reactive but R pupil more sluggish, withdraws to pain in
   LE but not UE, upward going toes b/l on Babinski, minimal arousal to
   sternal rub
   Labs / Radiology
   108 K/uL
   8.0 g/dL
   114 mg/dL
   2.0 mg/dL
   15 mEq/L
   3.1 mEq/L
   41 mg/dL
   116 mEq/L
   143 mEq/L
   24.5 %
   19.7 K/uL
        [image002.jpg]
                             [**2203-6-9**]  04:15 AM
                             [**2203-6-9**]  05:56 AM
                             [**2203-6-9**]  12:46 PM
                             [**2203-6-9**]  01:44 PM
                             [**2203-6-9**]  10:45 PM
                             [**2203-6-10**]  06:56 AM
                             [**2203-6-10**]  04:05 PM
                             [**2203-6-10**]  07:15 PM
                             [**2203-6-10**]  10:23 PM
                             [**2203-6-11**]  02:17 AM
   WBC
   20.6
   21.0
   19.7
   Hct
   25.4
   25.2
   25.3
   24.9
   24.5
   Plt
   72
   107
   108
   Cr
   2.1
   2.2
   2.3
   2.1
   2.0
   TCO2
   17
   18
   17
   18
   Glucose
   152
   109
   149
   114
   Other labs: PT / PTT / INR:29.5/57.7/3.0, CK / CKMB / Troponin-T:171//,
   ALT / AST:28/41, Alk Phos / T Bili:96/0.9, Amylase / Lipase:/19, Lactic
   Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:423 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   57F with h/o SLE c/b nephritis presenting with febrile seizure.
   # Endocarditis: TEE with confirmed veg on prosthetic MV and resultant
   MR. [**First Name (Titles) 9238**] [**Last Name (Titles) 9239**] in [**4-9**] blood cx bottles from ED [**6-7**]. MRI consistent
   with embolic shower.  Currently not candidate for ct surgery but
   possibly after 6 weeks abx.
   - Continue vanc, gent; monitor levels. D/c ampicillin; also d/c ctx as
   no gram negs
   - Consider add rifampin in a few days
   - F/u blood cx and sensitivities (MRSA swab from nose positive so
   higher likelihood it will be MRSA).
   - F/u CSF cultures
   - Daily EKG
   - Appreciate CT [**Doctor First Name 458**] recs
   - Appreciate ID input; f/u recs
   - Ask outpt rheumatology whether ok to cont Plaquenil in setting of
   high-grade infection
   # Septic Shock: Pressor requirement decreasing from 0.08->0.03 over the
   day yesterday. BPs stable.
   - Goal SBP 100-160 per neuro recs
   - Cte to wean off levophed as able
   # Seizures: likely explained by septic emboli. LP by IR with elevated
   WBC.
   - Appreciate neuro input; f/u recs
   - Continue Dilantin; follow levels and adjust dose as indicated
   - F/u CSF cx; abx as above
   - Goal SBP 100-160
   # Respiratory: Over-breathing vent yesterday
   - Will check ABG this am->adjust settings appropriately
   - Daily wake ups and RSBI if appropriate.
   # Metabolic alkalosis: Unclear etiology for increased bicarb given net
   pos.
   - Check urine anion gap
   # ARF: Baseline cr of 1.2-1.7 and currently up slightly to 2.2. [**Month (only) 60**] be
   prerenal as pt mildly tachycardic and with large amt of insensible
   losses
   - Fluid bolus today, reassess in PM for goal 1-2L positive
   - Monitor vanc/gent levels
   - Monitor UOP, Cr, CVP
   - F/u Renal recs
   .
   # Anemia: Baseline low 32-33, trended down to 25 on [**6-8**] in setting of
   aggressive fluid resuscitation but stable around 25 since. Concern for
   hemolysis given haptoglobin <20, but no schistocytes on smear. Of note,
   question of hemolysis has come up in past for haptoglobin <20; may have
   shearing by mechanical valves although urine hemosiderin neg.
   - Cycle HCT Q8H
   - Guaiac stools.
   .
   # Metabolic acidosis: Likely [**2-7**] lactate and infectious etiology; with
   appropriate respiratory compensation. Lactate trended with IVF.
   - Repeat chem7 [**Hospital1 **]
   - Follow lactate
   .
   # SLE c/b lupus nephritis - Not particularly active per last rheum note
   from Dr. [**Last Name (STitle) 9213**].
   - continued plaquenil->confirm with rheum that should still be on this
   given high-grade infection
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2203-6-8**] 02:33 AM
   Arterial Line - [**2203-6-8**] 05:14 AM
   18 Gauge - [**2203-6-8**] 07:30 AM
   Multi Lumen - [**2203-6-8**] 09:59 AM
   Prophylaxis:
   DVT: hep gtt
   Stress ulcer: PPI
   VAP:  mouth care
   Comments:
   Communication:  Comments: with husband
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2203-06-12 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2203-6-11**] 11:16 PM
 EKG - At [**2203-6-12**] 05:52 AM
 FEVER - 101.5
F - [**2203-6-11**] 01:00 PM
   [**2203-6-11**]:
   - Rifampin added. Pt remained febrile.
   - EKG with PR prolongation. EP aware; to call for temp wire if dropped
   beats or QRS widening.
   - Pt made DNR
   - Afib overnight 15 sec asysolic pause in AM, no BP, with conversion to
   sinus after. Pacer pads placed. EP notified to place temp wire
   emergently.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2203-6-9**] 08:30 AM
   Ampicillin - [**2203-6-10**] 05:38 AM
   Ceftriaxone - [**2203-6-10**] 08:38 AM
   Vancomycin - [**2203-6-11**] 09:58 AM
   Gentamicin - [**2203-6-12**] 04:18 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2203-6-11**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-6-12**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.5
C (99.5
   HR: 87 (80 - 97) bpm
   BP: 145/76(102) {94/52(69) - 145/78(103)} mmHg
   RR: 26 (19 - 34) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 64 Inch
    CVP: 10 (6 - 16)mmHg
   Total In:
                                                                  2,132 mL
                                                                    647 mL
   PO:
   TF:
                                                                    721 mL
                                                                    206 mL
   IVF:
                                                                  1,021 mL
                                                                    381 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    440 mL
   Urine:
                                                                  1,335 mL
                                                                    440 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                    377 mL
                                                                    208 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 590 (499 - 784) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 12 cmH2O
   SpO2: 98%
   ABG: ///13/
   Ve: 15 L/min
   Physical Examination
   General: Intubated, sedated
   HEENT: Sclera anicteric
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, ronchi
   CV: RRR, mechanical S1, and S2 2/6 SEM throughout precordiumwith
   difficult to hear heart sounds over ventilator
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: 1+ faint pulses, dopplerable PT pulses, no clubbing, cyanosis or
   edema
   NEURO: L pupil reactive but R pupil more sluggish, withdraws to pain in
   LE but not UE, upward going toes b/l on Babinski, minimal arousal to
   sternal rub
   Labs / Radiology
   128 K/uL
   8.5 g/dL
   137 mg/dL
   2.1 mg/dL
   13 mEq/L
   3.4 mEq/L
   48 mg/dL
   117 mEq/L
   142 mEq/L
   25.3 %
   18.8 K/uL
        [image002.jpg]
                             [**2203-6-9**]  05:56 AM
                             [**2203-6-9**]  12:46 PM
                             [**2203-6-9**]  01:44 PM
                             [**2203-6-9**]  10:45 PM
                             [**2203-6-10**]  06:56 AM
                             [**2203-6-10**]  04:05 PM
                             [**2203-6-10**]  07:15 PM
                             [**2203-6-10**]  10:23 PM
                             [**2203-6-11**]  02:17 AM
                             [**2203-6-12**]  03:38 AM
   WBC
   21.0
   19.7
   18.8
   Hct
   25.2
   25.3
   24.9
   24.5
   25.3
   Plt
   107
   108
   128
   Cr
   2.2
   2.3
   2.1
   2.0
   2.1
   TCO2
   17
   18
   17
   18
   Glucose
   109
   149
   114
   137
   Other labs: PT / PTT / INR:30.8/55.9/3.2, CK / CKMB / Troponin-T:171//,
   ALT / AST:28/41, Alk Phos / T Bili:96/0.9, Amylase / Lipase:/19, Lactic
   Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:423 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ANEMIA, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SEIZURE, WITH STATUS EPILEPTICUS
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   57F with h/o SLE c/b nephritis presenting with febrile seizure.
   # Endocarditis: TEE with confirmed veg on prosthetic MV and resultant
   MR. [**First Name (Titles) 9238**] [**Last Name (Titles) 9239**] in [**4-9**] blood cx bottles from ED [**6-7**]. MRI consistent
   with embolic shower.  Currently not candidate for ct surgery but
   possibly after 6 weeks abx.
   - Continue vanc, gent; monitor levels. D/c ampicillin; also d/c ctx as
   no gram negs
   - Add rifampin today
   - F/u blood cx and sensitivities (MRSA swab from nose positive so
   higher likelihood it will be MRSA).
   - F/u CSF cultures
   - Daily EKG showed prolonged PR today->cls cards for PR prolongation
   and ?temp ppm wire
   - Appreciate CT [**Doctor First Name 458**] recs
   - Appreciate ID input; Will check vanc peak and trough per their recs.
   # Asystolic pause: Patient had 15 s pause without BP which
   spontaneously converted back to sinus afterward.
   - Pacer pads in place
   - EP to place temp pacing wire this AM
   # Seizures: likely explained by septic emboli. LP showed meningitis.
   - Appreciate neuro input; f/u recs
   - Continue Dilantin; follow levels and adjust dose as indicated
   - F/u CSF cx; abx as above
   - Goal SBP 100-160
   # Respiratory: Over-breathing vent yesterday. Will try propofol with
   fentanyl bolus PRNinstead today
   - Will check ABG this am->adjust settings appropriately
   - Daily wake ups and RSBI if appropriate.
   - [**Month (only) 60**] need trach soon. Will cls thoracics in next few days.
   # Metabolic alkalosis: Unclear etiology for increased bicarb given net
   pos.
   - Check urine anion gap->likely secondary to fluid resuscitation
   # ARF: Baseline cr of 1.2-1.7 and currently up slightly to 2.2. [**Month (only) 60**] be
   prerenal as pt mildly tachycardic and with large amt of insensible
   losses
   - Monitor vanc/gent levels
   - Monitor UOP, Cr, CVP
   - F/u Renal recs
   .
   # Anemia: Baseline low 32-33, trended down to 25 on [**6-8**] in setting of
   aggressive fluid resuscitation but stable around 25 since. Concern for
   hemolysis given haptoglobin <20, but no schistocytes on smear. Of note,
   question of hemolysis has come up in past for haptoglobin <20; may have
   shearing by mechanical valves although urine hemosiderin neg.
   - Cycle HCT daily
   - Guaiac stools.
   .
   # SLE c/b lupus nephritis - Not particularly active per last rheum note
   from Dr. [**Last Name (STitle) 9213**].
   - continued plaquenil->confirm with rheum that should still be on this
   given high-grade infection
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2203-6-12**] 02:32 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2203-6-8**] 05:14 AM
   Multi Lumen - [**2203-6-8**] 09:59 AM
   Prophylaxis:
   DVT: Boots, heparin gtt
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2203-06-12 12:00:00 Physician Attending Progress Note
Chief Complaint: Endocarditis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2203-6-11**] 11:16 PM
 EKG - At [**2203-6-12**] 05:52 AM
 FEVER - 101.5
F - [**2203-6-11**] 01:00 PM
   -Patient with continued prolongation of PR interval
   -Patient also with intermittent asystole last pm and pacing wire
   offered but after discussion with family and current move to DNR status
   no wire placement was pursued.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2203-6-10**] 05:38 AM
   Ceftriaxone - [**2203-6-10**] 08:38 AM
   Gentamicin - [**2203-6-12**] 04:18 AM
   Vancomycin - [**2203-6-12**] 07:30 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Fentanyl - [**2203-6-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-6-12**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38
C (100.4
   HR: 93 (80 - 97) bpm
   BP: 125/69(91) {94/52(69) - 148/79(106)} mmHg
   RR: 26 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 64 Inch
   CVP: 13 (6 - 13)mmHg
   Total In:
                                                                  2,132 mL
                                                                  1,291 mL
   PO:
   TF:
                                                                    721 mL
                                                                    326 mL
   IVF:
                                                                  1,021 mL
                                                                    785 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    760 mL
   Urine:
                                                                  1,335 mL
                                                                    760 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                   -123 mL
                                                                    531 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 671 (522 - 784) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///13/
   Ve: 11.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   128 K/uL
   137 mg/dL
   2.1 mg/dL
   13 mEq/L
   3.4 mEq/L
   48 mg/dL
   117 mEq/L
   142 mEq/L
   25.3 %
   18.8 K/uL
        [image002.jpg]
                             [**2203-6-9**]  05:56 AM
                             [**2203-6-9**]  12:46 PM
                             [**2203-6-9**]  01:44 PM
                             [**2203-6-9**]  10:45 PM
                             [**2203-6-10**]  06:56 AM
                             [**2203-6-10**]  04:05 PM
                             [**2203-6-10**]  07:15 PM
                             [**2203-6-10**]  10:23 PM
                             [**2203-6-11**]  02:17 AM
                             [**2203-6-12**]  03:38 AM
   WBC
   21.0
   19.7
   18.8
   Hct
   25.2
   25.3
   24.9
   24.5
   25.3
   Plt
   107
   108
   128
   Cr
   2.2
   2.3
   2.1
   2.0
   2.1
   TCO2
   17
   18
   17
   18
   Glucose
   109
   149
   114
   137
   Other labs: PT / PTT / INR:30.8/55.9/3.2, CK / CKMB / Troponin-T:171//,
   ALT / AST:28/41, Alk Phos / T Bili:96/0.9, Amylase / Lipase:/19, Lactic
   Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:423 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR--Mild Left>Right edema
   Microbiology: Last positive cultures [**6-7**] with MRSA
   Assessment and Plan
   57 yo female wtih MRSA endocarditis in the setting of mechanical valves
   as well as bioprosthesis.  She has had continued evolution of
   complications of the extensive endocarditis with continued fevers,
   worsening conduction delay with PR prolongation and intermittent
   asystole.
   1)ENDOCARDITIS, BACTERIAL-_Careful discussions as to what is medically
   possible and appropriate in this setting of severe valvular compromise,
   mult-focal endocarditis, significant and extensive embolic phenomona
   within the CNS and now with significant impairment in the conduction
   system integrity.  Surgery has not been offered as reasonable in this
   setting and we have medical management with incomplete response and
   even worsening of consequences of the infection.
   -Continue vanco/Rif
   -Will need to update family in full and completely
   -
   2)Respiratory Failure-
   -Continue with PSV
   -Main barrier to extubation is mental status
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ANEMIA, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SEIZURE, WITH STATUS EPILEPTICUS
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2203-6-8**] 05:14 AM
   Multi Lumen - [**2203-6-8**] 09:59 AM
   18 Gauge - [**2203-6-12**] 07:30 AM
   Prophylaxis:
   DVT: Hepain GTT
   Stress ulcer:
   VAP:  Per protocol
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45